US05459273
A solution of 30 g of ethoxymethylene-glutacononitrile in 300 ml of glacial acetic acid was cooled to 0° C. and saturated with HCl gas. The mixture was allowed to rise to room temperature and left to stand overnight. It was concentrated and the residue was stirred together with 70 ml of water and neutralized with NaHCO3 solution. After being filtered off and recrystallized from ethanol, 2-chloro-5-cyanopyridine was obtained in 73.5% of the theoretical yield.

reactant | ethoxymethylene-glutacononitrile | 30 g | C(C)OC=C(C=CC#N)C#N | C8H8N2O
reactant | HCl | Cl | ClH
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
